US05945565
In a 5-liter three-necked round-bottomed flask was placed 0.9 l of 5% aqueous acetic acid and 157 g (2.8 moles) of iron. To the resulting well-stirred mixture was added 166.6 g (0.7 moles) of the previously prepared methyl 3-methoxyiminomethyl-4-nitrobenzoate dissolved in 0.9 l of ethyl acetate followed by dropwise addition of 0.9 l of acetic acid while keeping the temperature below 35° C. The resulting mixture was stirred at 35° C. for 30 minutes and filtered through diatomaceous earth. The filtrate was poured into 5 l of water. The aqueous phase was separated and washed with ethyl ether (2×500 mL). The combined organic layers were washed sequentially with water (4×500 mL), saturated aqueous sodium bicarbonate (2×500 mL), water (2×500 mL), and brine (1×400 mL). The organic layer was dried over anhydrous magnesium sulfate and the solvent removed using a rotary evaporator yielding 130 g of the expected methyl 4-amino-3-methoxyiminomethylbenzoate.

reactant | acetic acid | 0.9 l | C(C)(=O)O | C2H4O2
reactant | methyl 3-methoxyiminomethyl-4-nitrobenzoate | CON=CC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C10H10N2O5
reactant | acetic acid | 0.9 l | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 0.9 l | C(C)(=O)OCC | C4H8O2
catalyst | iron | 2.8 moles, 157 g | [Fe] | Fe
product | methyl 4-amino-3-methoxyiminomethylbenzoate | 130 g | NC1=C(C=C(C(=O)OC)C=C1)C=NOC | C10H12N2O3
